US06340759B1
(290-1) 2-Methyl-3-thiophenecarboxylic acid
To a solution of 1.5M-lithium diisopropylamide/cyclohexane solution (600 ml) and THF (300 ml) was dropwise added 3-thiophenecarboxylic acid (50.0 g)/THF (150 ml) under vigorous stirring at −70° C. After the reaction mixture was stirred, as it was, at −70° C. for 2 hr, methyl iodide (60.0 g) was added dropwise to the reaction mixture. After the dry ice/acetone bath was removed, the mixture was reacted overnight. The resulting reaction solution was acidified by adding 5N hydrochloric acid thereto, and then extracted with ethyl acetate. The organic layer was washed with water and brine, dried and evaporated, to give 54 g of the title compound.

reactant | lithium diisopropylamide cyclohexane | 600 ml | C(C)(C)[N-]C(C)C.[Li+].C1CCCCC1
reactant | 3-thiophenecarboxylic acid | 50.0 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | methyl iodide | 60.0 g | CI | CH3I
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 2-Methyl-3-thiophenecarboxylic acid | 54 g | CC=1SC=CC1C(=O)O | C6H6O2S
